Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
vancomycin / penicillin G procaine
 
Attending: ___.
 
Chief Complaint:
ESRD
 
Major Surgical or Invasive Procedure:
___
 Deceased donor B blood group identical crossmatch
    negative KDPI of 41%, standard criteria donor kidney
    transplant to the right iliac fossa.
 Double-J stent placement for neoureteral cystostomy.

 
History of Present Illness:
___ with history of end-stage renal disease attributed to 
hypertension.  He has been on dialysis since ___ (___). 
Currently has a right upper extremity AV
fistula. He has sarcoidosis with moderate mixed 
obstruction/restriction but disease process is stable and he has 
been seen and cleared by pulmonary for his transplant. He has 
undergone full work up and comes in for renal transplant today 
after news of an available donor. 

 
Past Medical History:
PMH: HTN, Asthma, ESRD, sarcoidosis                              


PSH: Right inguinal hernia repair in ___, L testicular cyst
surgery in ___

 
Social History:
___
Family History:
No known family history of kidney disease
 
Physical Exam:
Vital Signs sheet entries for ___: 
Weight: 210.40 (Standing Scale) (Entered in Nursing IPA). BMI:
29.3. 
T 98.1 HR 67 BP 142/83 O2sat 99% on RA
GEN: Sitting in bed in NAD
RESP: Unlabored, CTAB
___: RRR, no m/r/g
ABD: Soft, NT, ND
EXT: WWP, no edema. RUE AVF is aneurysmal but otherwise
appropriate and intact with appropriate thrill.  

LABS:

7.9 > 10.3 / 30.6 <  119 

138 | 92 | 33
----------------< 71
4.7 | 33 | 7.1
  
IMAGING:

CXR ___

IMPRESSION:  
  
Bilateral scattered opacities may reflect underlying pulmonary
sarcoidosis  versus foci of infection.  The opacities at the 
lung
bases are more linear and  likely reflect atelectasis and/or
scarring.  Small left pleural effusion.  Direct comparison to
prior chest radiographs is recommended if available. 
  
Mildly enlarged cardiac silhouette
 
Pertinent Results:
Admission labs:

___ 03:09PM BLOOD WBC-7.9 RBC-3.32* Hgb-10.3* Hct-30.6* 
MCV-92 MCH-31.0# MCHC-33.7 RDW-13.3 RDWSD-44.8 Plt ___
___ 03:09PM BLOOD Glucose-71 UreaN-28* Creat-7.1*# Na-138 
K-4.7 Cl-92* HCO3-33* AnGap-18
___ 03:09PM BLOOD ALT-17 AST-21 AlkPhos-87 TotBili-0.5
___ 03:09PM BLOOD Albumin-4.3 Calcium-9.8 Phos-3.3 Mg-2.2

Discharge labs:

___ 05:10AM BLOOD WBC-5.1 RBC-2.82* Hgb-8.5* Hct-25.4* 
MCV-90 MCH-30.1 MCHC-33.5 RDW-13.7 RDWSD-45.1 Plt ___
___ 05:10AM BLOOD Glucose-115* UreaN-36* Creat-2.3* Na-140 
K-4.4 Cl-105 HCO3-24 AnGap-15
___ 05:10AM BLOOD Calcium-9.4 Phos-2.5* Mg-1.9
___ 05:50AM BLOOD tacroFK-<2.0*
___ 05:01AM BLOOD tacroFK-2.6*
___ 05:10AM BLOOD tacroFK-PND

 
 
Time Taken Not Noted     Log-In Date/Time: ___ 11:21 am
      Blood (CMV AB)      ADD CMVP CMV CMVM TAKEN FROM TUBE 
___. 

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 

 
Brief Hospital Course:
On ___, he underwent deceased donor B blood group identical 
crossmatch negative KDPI of 41%, standard criteria donor kidney 
transplant to the right iliac fossa with double J stent 
placement for neoureteral cystostomy. Surgeon was Dr. ___. 
___. Please refer to operative note for complete details. He 
was given induction immunosuppression which consisted of 
Thymoglobulin, Cellcept and Solu-medrol. 

Postop, he was febrile to 101 likely from Thymoglobulin. He was 
receiving Vancomycin ___ due to allergy to PCN and 
became afebrile.  He was started on Levaquin on ___ for donor 
UTI with plan for 7 day duration (last dose ___. Urine output 
was excellent with daily decrease in creatinine to 2.3 by postop 
day 5. IV fluid repletions were stopped on postop day 3. The 
foley was removed on postop day 3, and he was able to void. 
Urine output increased to 2700cc/day.

Abdomen was distended on postop day 3 without nausea. He was 
given a dulcolax suppository with and MOM with passage of 
multiple stools.  He was passing flatus and was taking scheduled 
Colace and senna. Abdomen was less distended. 

Pain was initially managed with Morphine PCA that was switched 
to oxycodone when he was tolerating his diet. He used 40mg on 
___ and 20mg on ___. 

SBPs were elevated to the 160s on ___, and he was given a dose 
of IV Hydralazine then was started on Labetolol 600mg bid with 
improvement in SBP to 130-140 range. Labetolol was decreased to 
400mg bid, and he was given IV Lasix on ___ for volume as his 
weight was up 5 kg.  He diuresed well. Lasix was repeated.  
Weight was 96kg on ___ (admission weight of 95kg). 

He was given a total of 4 doses of Thymoglobulin (125mg each 
dose). Solu-medrol was tapered to prednisone 25mg on ___ then he 
will decrease to 5mg daily. Cellcept 1 gram wsa given twice 
daily, and tacrolimus twice daily per trough levels. Dose was 
increased to 8mg twice daily on postop day 4 for level of 2.6 
then further increased to 10mg twice daily on ___ when trough 
was only  3.6. The plan was for repeat trough check on ___ at 
___. 

Lamivudine was started on postop day 4 for h/o HBcAb positive 
status. HBcAb was sent on ___ and was pending. Given slow 
result, a repeat HBcAb was resent on ___. 

The JP drain was removed on ___ for output of 50cc/day on ___. 

He was ambulating and overall felt well enough to go back to 
___ on postop day 5.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO DAILY 
2. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
3. Labetalol 900 mg PO BID 
4. Minoxidil 10 mg PO DAILY 
5. Furosemide 40 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  LaMIVudine 100 mg PO DAILY  
3.  Levofloxacin 500 mg PO Q24H donor had UTI  
4.  Milk of Magnesia 30 mL PO DAILY:PRN constipation  
5.  Mycophenolate Mofetil 1000 mg PO BID  
6.  Nystatin Oral Suspension 5 ml PO QID  
7.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate  
8.  Polyethylene Glycol 17 g PO DAILY  
9.  Senna 8.6 mg PO BID constipation  
10.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
11.  Tacrolimus 10 mg PO Q12H  
12.  ValGANCIclovir 450 mg PO DAILY  
13.  Acetaminophen 650 mg PO Q6H 
decrease/stop as pain lessens
Do Not take more than 3000mg per day  
14.  Labetalol 400 mg PO BID  
15.  Omeprazole 20 mg PO DAILY  
16.  PredniSONE 5 mg PO DAILY 
start ___  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
ESRD
Sarcoid
HTN
HBcAb positive

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, inability 
to tolerate food, fluids or medications, yellowing of skin or 
eyes, increased abdominal pain, incisional redness, drainage or 
bleeding, dizziness or weakness, decreased urine output or dark, 
cloudy urine, swelling of abdomen or ankles, or any other 
concerning symptoms.

You will have labwork drawn twice weekly as arranged by the 
transplant clinic, with results to the transplant clinic  ( CBC, 
Chem 10, AST, T Bili, Trough Tacro level, Urinalysis)

**On the days you have your labs drawn, do not take your 
Tacrolimus until your labs are drawn. Bring your Tacrolimus with 
you so you may take your medication as soon as your labwork has 
been drawn.

Follow your medication card, keep it updated with any dosage 
changes, and always bring your card with you to any clinic or 
hospital visits.

You may shower with soap and water, rinse, pat dry. Do not apply 
lotions or powder near the incision. You may leave the incision 
open to the air. The staples will be removed approximately 3 
weeks following your transplant.

Avoid direct sun exposure. Wear protective clothing and a hat, 
and always wear sunscreen with SPF 30 or higher when you go 
outdoors.

Drink enough fluids to keep your urine light in color. Your 
appetite will return with time. Eat small frequent meals, and 
you may supplement with things like carnation instant breakfast 
or Ensure

Do not increase, decrease, stop or start medications without 
consultation with the transplant clinic at ___. There 
are significant drug interactions with anti-rejection 
medications which must be considered in medication management 
following transplant

Refer to the transplant binder. 
There is always someone on call at the transplant clinic with 
any questions that may arise

 
Followup Instructions:
___